US07989461B2
3-Bromo-N-(3-methoxy-5-(trifluoromethyl)phenyl)-2-methylthieno[2,3-c]pyridin-7-amine (0.230 g, 0.551 mmol), N-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine (0.189 g, 0.661 mmol), dichlorobis(triphenyl-phosphine)palladium (II) (0.0193 g, 0.0276 mmol), sodium carbonate (0.117 g, 1.10 mmol) were all placed in a clear microwave vial along with 5 ml of 9:1 DMF:water. The vial was capped and heated in a Personal Chemistry SmithSynthesizer to 150° C. for 10 minutes. The reaction was diluted with water and extracted with EtAOc. The organic layer was washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate and purified by column chromatography on silica gel using a gradient of 50-100% EtOAc in hexanes. The pure fractions were reduced in vacuo and the residue triturated with ether to give 6-(7-(4-methoxy-3-(trifluoromethyl)phenylamino)-2-methylthieno[2,3-c]pyridin-3-yl)-N-methylquinazolin-2-amine as a yellow solid. MS (M+H)+ 496.

reactant | 3-Bromo-N-(3-methoxy-5-(trifluoromethyl)phenyl)-2-methylthieno[2,3-c]pyridin-7-amine | 0.551 mmol, 0.230 g | BrC1=C(SC2=C(N=CC=C21)NC2=CC(=CC(=C2)C(F)(F)F)OC)C | C16H12BrF3N2OS
reactant | N-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine | 0.661 mmol, 0.189 g | CNC1=NC2=CC=C(C=C2C=N1)B1OC(C(O1)(C)C)(C)C | C15H20BN3O2
reactant | sodium carbonate | 1.10 mmol, 0.117 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | dichlorobis(triphenyl-phosphine)palladium (II) | 0.0276 mmol, 0.0193 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(7-(4-methoxy-3-(trifluoromethyl)phenylamino)-2-methylthieno[2,3-c]pyridin-3-yl)-N-methylquinazolin-2-amine | COC1=C(C=C(C=C1)NC=1N=CC=C2C1SC(=C2C=2C=C1C=NC(=NC1=CC2)NC)C)C(F)(F)F | C25H20F3N5OS
